US09315458B2
C) 3-[4-(chloromethyl)phenyl]-1-methyl-1H-pyrazole
To a solution of [4-(1-methyl-1H-pyrazol-3-yl)phenyl]methanol (1.00 g) in THF (15.0 mL) was added dropwise thionyl chloride (0.58 mL) under ice-cooling, and the mixture was stirred at 17° C. for 16 hr. The reaction mixture was diluted with water and ethyl acetate, and saturated aqueous sodium bicarbonate was added thereto. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.65 g).

reactant | [4-(1-methyl-1H-pyrazol-3-yl)phenyl]methanol | 1.00 g | CN1N=C(C=C1)C1=CC=C(C=C1)CO | C11H12N2O
reactant | thionyl chloride | 0.58 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 15.0 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-[4-(chloromethyl)phenyl]-1-methyl-1H-pyrazole | 0.65 g | ClCC1=CC=C(C=C1)C1=NN(C=C1)C | C11H11ClN2
